US05521197
5-fluoro-3-(4-piperidinyl)-1H-indole
To a solution of 10.75 gm (50 mMol) 5-fluoro-3-[1,2,5,6-tetrahydro-4-pyridyl]-1H-indole in 500 mL ethanol were added 2.0 gm 5% palladium on carbon and the reaction mixture hydrogenated at ambient temperature for 18 hours at an initial hydrogen pressure of 60 p.s.i. The reaction mixture was then filtered through a pad of celite and the filtrate concentrated under reduced pressure to give all off-white solid. The solid was recrystallized from methanol to give 8.31 gm (76.2%) of the title compound as a colorless solid. m.p.=229°-230° C.

reactant | 5-fluoro-3-[1,2,5,6-tetrahydro-4-pyridyl]-1H-indole | 50 mMol, 10.75 gm | FC=1C=C2C(=CNC2=CC1)C1=CCNCC1 | C13H13FN2
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 500 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 2.0 gm | [Pd] | Pd
product | 5-fluoro-3-(4-piperidinyl)-1H-indole | 8.31 gm, 76.2% | FC=1C=C2C(=CNC2=CC1)C1CCNCC1 | C13H15FN2
